US07420001B2
Oxidation of the 1-ethyl-2-methylbenzimidazole to the corresponding aldehyde using selenium dioxide was conducted according to a literature procedure (Werner et al. Tetrahedron, 1995, 51, 4779). 1-Ethyl-1H-benzimidazole-2-carboxaldehyde was isolated as a yellow oil in overall 52% yield.

reactant | 1-ethyl-2-methylbenzimidazole | C(C)N1C(=NC2=C1C=CC=C2)C | C10H12N2
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 1-Ethyl-1H-benzimidazole-2-carboxaldehyde | 52% yield | C(C)N1C(=NC2=C1C=CC=C2)C=O | C10H10N2O
